US06673267B2
A flask equipped with a stirrer and a thermometer was charged with 2.99 g (7.44 mmol) of 2-(4-{2-[4-bromo-2-(trifluoromethoxy)phenyl]ethynyl}phenoxy)ethanol and 16 ml of triethylamine under a nitrogen atmosphere. Then 1.52 g (7.44 mmol) of 5-(4-ethynylphenoxy)pentanol, 11.2 mg (0.059 mmol) of copper (I) iodide, 51.5 mg (0.20 mmol) of triphenylphosphine, and 11.2 mg (0.016 mmol) of dichlorobis(triphenylphosphine)palladium were added at room temperature, and stirred under reflux for 6.5 hours. After the insolubles were filtered off and the solvent was distilled off, ethyl acetate was added to the resulting distillate, and the pH was adjusted to an acidity with 1N hydrochloric acid to effect ethyl acetate extraction. The resulting extract was washed with NaCl saturated water, dried over anhydrous sodium sulfate, filtered, and concentrated to thereby obtain 4.27 g of a crude product in the form of a yellowish brown solid. The crude product was then purified by silica gel column chromatography using hexane/ethyl acetate as an eluting solvent to obtain 3.2 g of 5-{4-[2-(4-{2-[4-(2-hydroxyethoxy)phenyl]ethynyl}-3-(trifluoromethoxy)phenyl)ethynyl]phenoxy}pentane-1-ol in the form of a light yellow solid in a 82% yield.

reactant | 2-(4-{2-[4-bromo-2-(trifluoromethoxy)phenyl]ethynyl}phenoxy)ethanol | 7.44 mmol, 2.99 g | BrC1=CC(=C(C=C1)C#CC1=CC=C(OCCO)C=C1)OC(F)(F)F | C17H12BrF3O3
reactant | 5-(4-ethynylphenoxy)pentanol | 7.44 mmol, 1.52 g | C(#C)C1=CC=C(OCCCCCO)C=C1 | C13H16O2
catalyst | copper (I) iodide | 0.059 mmol, 11.2 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.016 mmol, 11.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | triphenylphosphine | 0.20 mmol, 51.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
product | 5-{4-[2-(4-{2-[4-(2-hydroxyethoxy)phenyl]ethynyl}-3-(trifluoromethoxy)phenyl)ethynyl]phenoxy}pentane-1-ol | 3.2 g, 82% yield | OCCOC1=CC=C(C=C1)C#CC1=C(C=C(C=C1)C#CC1=CC=C(OCCCCCO)C=C1)OC(F)(F)F | C30H27F3O5
